US04668691
Ethyl 5-hydroxy-7-(2-methylphenyl)-1-oxo-1,3,4,7-tetrahydrobenzo[c]furan-6-carboxylate
50 mmol of 2-methylbenzaldehyde, 50 mmol of ethyl 3-butylaminocrotonate and 50 mmol of ethyl 4-acetoxy-3-oxobutanecarboxylate together with 100 ml of ethanol were boiled under reflux overnight, then 10 ml of concentrated HCl and 20 ml of water were added, and the mixture was boiled for a further hour. The product is recrystallized from ethanol.

reactant | 2-methylbenzaldehyde | 50 mmol | CC1=C(C=O)C=CC=C1 | C8H8O
reactant | ethyl 3-butylaminocrotonate | 50 mmol | C(CCC)N\C(=C/C(=O)OCC)\C | C10H19NO2
reactant | ethyl 4-acetoxy-3-oxobutanecarboxylate | 50 mmol | C(C)(=O)OCC(CCC(=O)OCC)=O | C9H14O5
reactant | HCl | 10 ml | Cl | ClH
solvent | water | 20 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Ethyl 5-hydroxy-7-(2-methylphenyl)-1-oxo-1,3,4,7-tetrahydrobenzo[c]furan-6-carboxylate | OC=1CC2=C(C(OC2)=O)C(C1C(=O)OCC)C1=C(C=CC=C1)C | C18H18O5
